US05559230
To 5-methylidene-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.60 g) are added successively t-butyl alcohol (6.0 ml), water (1.2 ml), pyridine (0.3 ml), osmium tetroxide (1.2 mg) and trimethylamine N-oxide dihydrate (0.22 g), and the mixture is refluxed with stirring for 2.5 hours. After cooling, to the reaction solution is added 20% aqueous sodium hydrogensulfite solution (10 ml), and the mixture is stirred at room temperature for 1.5 hour. The reaction solution is extracted with a mixture of ethyl acetate/tetrahydrofuran (1:1). The extract is washed successively with diluted hydrochloric acid and saturated saline solution, and dried over magnesium sulfate. The solvent is distilled off and the resulting residue is recrystallized from ethyl acetate/n-hexane to give 5-hydroxymethyl-5-hydroxy-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.55 g) as white powder, m.p. 136°-140° C.

reactant | 5-methylidene-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.60 g | C=C1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O | C26H24N2O2
reactant | t-butyl alcohol | 6.0 ml | C(C)(C)(C)O | C4H10O
reactant | trimethylamine N-oxide dihydrate | 0.22 g | O.O.C[N+](C)(C)[O-]
reactant | sodium hydrogensulfite | 10 ml | S(=O)(O)[O-].[Na+]
catalyst | osmium tetroxide | 1.2 mg | [Os](=O)(=O)(=O)=O
solvent | pyridine | 0.3 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 1.2 ml | O | H2O
product | 5-hydroxymethyl-5-hydroxy-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.55 g | OCC1(CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O)O | C26H26N2O4
